US09085576B2
A rbf was charged with DL-serine methyl ester hydrochloride (1.49 g, 9.57 mmol, Sigma-Aldrich Chemical Company, Inc.), HATU (4.37 g, 11.49 mmol, Sigma-Aldrich Chemical Company, Inc.) and DCM (22 mL). 2-Fluoropropionic acid (0.75 ml, 9.57 mmol, Alfa Aesar, A Johnson Matthey Company) and triethylamine (3.3 ml, 23.93 mmol, Sigma-Aldrich Chemical Company, Inc.) were added and the reaction mixture was allowed to stir at rt overnight. The reaction mixture was diluted with water and extracted with DCM. The organic extract was washed with water, aqueous saturated NaHCO3 solution, brine, and dried over MgSO4. The solution was concentrated in vacuo and the crude product was purified by silica gel chromatography, eluting with a gradient of 1% to 10% MeOH in DCM, to provide methyl 2-(2-fluoropropanamido)-3-hydroxypropanoate (0.69 g, 3.60 mmol, 38% yield).

reactant | DL-serine methyl ester hydrochloride | 9.57 mmol, 1.49 g | Cl.COC(C(N)CO)=O
reactant | HATU | 11.49 mmol, 4.37 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 2-Fluoropropionic acid | FC(C(=O)O)C | C3H5FO2
reactant | triethylamine | 23.93 mmol, 3.3 ml | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
solvent | DCM | 22 mL | C(Cl)Cl | CH2Cl2
product | methyl 2-(2-fluoropropanamido)-3-hydroxypropanoate | 3.60 mmol, 0.69 g, 38% yield | FC(C(=O)NC(C(=O)OC)CO)C | C7H12FNO4
